US07384967B2
2-[4-Fluoro-2-(3-thiazol-2-yl-ureido)-phenoxy]-N-methyl-benzamide was prepared from 2-[4-fluoro-2-(3-thiazol-2-yl-ureido)-phenoxy]-benzoic acid and 1N solution of methyl amine in THF (0.5 mL, 0.5 mmol) following the general procedure K.

reactant | 2-[4-fluoro-2-(3-thiazol-2-yl-ureido)-phenoxy]-benzoic acid | FC1=CC(=C(OC2=C(C(=O)O)C=CC=C2)C=C1)NC(=O)NC=1SC=CN1 | C17H12FN3O4S
reactant | methyl amine | CN | CH5N
reactant | THF | 0.5 mmol, 0.5 mL | C1CCOC1 | C4H8O
product | 2-[4-Fluoro-2-(3-thiazol-2-yl-ureido)-phenoxy]-N-methyl-benzamide | FC1=CC(=C(OC2=C(C(=O)NC)C=CC=C2)C=C1)NC(=O)NC=1SC=CN1 | C18H15FN4O3S
